US07091232B2
8-(2-Benzyloxy-ethyl)-1,4-dioxa-spiro[4.5]decane (Intermediate K1, 1.02 g, 3.70 mmol) (prepared in accordance with the publication Ciufolini et. al. J. Amer. Chem. Soc. 1991, 113, 8016, incorporated herein by reference) was dissolved in acetone (100 mL): H2O (5 mL) and reacted with TsOH (140 mg, 0.74 mmol) at 45° C. for 5 h. After a standard aqueous work-up the material was purified by chromatography on SiO2 to give 4-(2-benzyloxy-ethyl)-cyclohexanone as a colorless oil (97%).

reactant | 8-(2-Benzyloxy-ethyl)-1,4-dioxa-spiro[4.5]decane | 3.70 mmol, 1.02 g | C(C1=CC=CC=C1)OCCC1CCC2(OCCO2)CC1 | C17H24O3
reactant | H2O | 5 mL | O | H2O
reactant | TsOH | 0.74 mmol, 140 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-(2-benzyloxy-ethyl)-cyclohexanone | 97% | C(C1=CC=CC=C1)OCCC1CCC(CC1)=O | C15H20O2
